US07414061B2
3-{4-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzonitrile
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole (73 mg, 0.3 mmol) was converted, using 3-cyanophenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (13 mg, 13%) which was obtained as an off-white solid. MS: m/e=345.6 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole | 0.3 mmol, 73 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=C(C=C1)F | C13H10FN3O
reactant | 3-cyanophenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 3-{4-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzonitrile | 13 mg, 13% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C=1C=C(C#N)C=CC1)C | C20H13FN4O
